US07759369B2
6-[(5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)-methyl]-N-(phenylsulphonyl)-2-pyridinecarboxamide
To a solution of 6-[(5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)-methyl]-2-pyridinecarboxylic acid (81 mg) in dichloromethane (2 ml) and tetrahydrofuran (2 ml) was added benzenesulphonamide (50 mg), 4-dimethyl-aminopyridine (3.5 mg) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (61 mg) and the mixture stirred at ambient temperature for 5 hours. Solvent was removed in vacuo and water (5 ml) added. The mixture was extracted with ether (2×5 ml) and the combined extracts dried (MgSO4) and concentrated in vacuo. The residue was purified by mass-directed autopreparation to afford the title compound (46 mg, 42%) as a white solid. LC/MS [MH+]=545/547, Rt=3.89 min.

reactant | 6-[(5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)-methyl]-2-pyridinecarboxylic acid | 81 mg | ClC=1C=CC(=C(C1)CC1=CC=CC(=N1)C(=O)O)OCC1=C(C=C(C=C1)Cl)F | C20H14Cl2FNO3
reactant | benzenesulphonamide | 50 mg | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 61 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 6-[(5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)-methyl]-N-(phenylsulphonyl)-2-pyridinecarboxamide | 46 mg, 42% | ClC=1C=CC(=C(C1)CC1=CC=CC(=N1)C(=O)NS(=O)(=O)C1=CC=CC=C1)OCC1=C(C=C(C=C1)Cl)F | C26H19Cl2FN2O4S
